US03965200
6 parts of diatomaceous earth the same as in Example 1 was thoroughly mixed with 5 parts of toluene-2,4-disulfonic acid and 10 parts of water. The mixture was dried at 100° to 105°C and further at 110°C under a pressure of 30 mm Hg for 5 hours, whereby dried solid catalyst was obtained. To the solid catalyst was added 40 parts of o-xylene and the mixture was cooled to -10°C. One part of fuming nitric acid having a specific gravity of 1.52 was added dropwise to the cooled mixture with stirring over a period of in 30 minutes. After the addition the mixture was stirred at -10°C for 3 hours and further at 20° to 25°C for 2 hours, whereby mononitroxylene was obtained with p/o ratio of 3.02. Yield was 91%.

reactant | toluene-2,4-disulfonic acid | C=1(C(=CC(=CC1)S(=O)(=O)O)S(=O)(=O)O)C | C7H8O6S2
reactant | water | O | H2O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | o-xylene | CC=1C=CC=CC1C | C8H10
product | mononitroxylene | Yield was 91% | [N+](=O)([O-])C1=C(C(=CC=C1)C)C | C8H9NO2
